US09145392B2
4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (“357”)
The title compound was prepared in an analogous manner as 5-bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 2-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-2-piperidin-4-yl-imidazol-1-yl]-ethanol trifluoroacetate instead of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine. LC-MS: (M+1=476, obsd.=476).

reactant | 5-bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C20H19BrF4N6
reactant | 2-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-2-piperidin-4-yl-imidazol-1-yl]-ethanol trifluoroacetate | FC(C(=O)O)(F)F.FC1=C(C=C(C=C1)C=1N=C(N(C1)CCO)C1CCNCC1)C(F)(F)F
product | 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCO | C22H21F4N7O
